US04329471
A mixture of 55.5 g (0.176 mole) of 1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one, 37.4 g (0.210 mole) of N-bromosuccinimide and about 100 mg of benzoyl peroxide in 500 ml of carbon tetrachloride is stirred at reflux temperature for 4 hours. The mixture is then cooled and filtered to remove the succinimide which formed. The solvent is evaporated from the filtrate and the resulting residue is crystallized from a mixture of 300 ml of ethyl acetate and 300 ml of hexane to give 5-(bromomethyl)-1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one melting at about 135°-136° C.

reactant | 1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one | 0.176 mole, 55.5 g | C(C)(=O)N1C(N(C(=C1C)C(C1=CC=C(C=C1)OC)=O)C(C)=O)=O | C16H16N2O5
reactant | N-bromosuccinimide | 0.210 mole, 37.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | about 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(bromomethyl)-1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one | BrCC1=C(N(C(N1C(C)=O)=O)C(C)=O)C(C1=CC=C(C=C1)OC)=O | C16H15BrN2O5
